US04342692
F. 3,3-Ethylenedioxy-5-(4-methoxyphenyl)-1-pentanol
Into a 2 l. 3-necked r.b. flask equipped with mechanical stirrer, reflux condenser, and heating mantle was added 18 g. (0.474 mole) of LiAlH4 and 500 ml. of dry tetrahydrofuran at such a rate as to control vigorous reflux of reaction solution. 97 g. (0.33 mole) of ethyl 5-(4-methoxyphenyl)-3,3-ethylenedioxypentanoate in 100 ml. of dry tetrahydrofuran and added dropwise over a period of 40 minutes. The reaction mixture was stirred at room temperature for 30 minutes and refluxed for 2 hrs. Excess LiAlH4 was carefully decomposed with saturated Na2SO4 solution. The inorganic solid was filtered off and washed with ethyl acetate. The filtrate was concentrated in vacuo leaving 84.6 g. of crude ketal alcohol.

reactant | LiAlH4 | 0.474 mole | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 5-(4-methoxyphenyl)-3,3-ethylenedioxypentanoate | 0.33 mole | COC1=CC=C(C=C1)CCC1(CC(=O)OCC)OCCO1 | C16H22O5
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,3-Ethylenedioxy-5-(4-methoxyphenyl)-1-pentanol | C1OC(CCO)(CCC2=CC=C(C=C2)OC)OC1 | C14H20O4
